US08491869B2
6-(1H-Benzo[d]imidazol-2-yl)naphthalen-2-ol*formate:
T470 To a solution of 2-(6-(benzyloxy)naphthalen-2-yl)-1H-benzo[d]imidazole (73 mg, 0.21 mmol) in THF (2 mL) was added MeOH (2 mL), Pd—C (10%, 30 mg), and formic acid (0.30 mL). The mixture was flushed with argon and sealed in a microwave vial. The mixture was heated at 100° C. for 5 minutes in a microwave synthesizer. The mixture was filtered off Pd—C and the filtrate was concentrated to give T470 as a white solid (60 mg, 94%). 1H NMR (400 MHz, CD3OD): δ 8.46 (t, J=1.0 Hz, 1H), 8.12 (s, 1H), 8.05 (dd, J=8.8, 2.0 Hz, 1H), 7.85 (d, J=9.6 Hz, 1H), 7.79 (d, J=8.8 Hz, 1H), 7.62 (m, 2H), 7.29 (m, 2H), 7.16 (m, 2H); MS (ESI): 261 (M+H+).

reactant | 2-(6-(benzyloxy)naphthalen-2-yl)-1H-benzo[d]imidazole | 0.21 mmol, 73 mg | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C1=NC2=C(N1)C=CC=C2 | C24H18N2O
reactant | MeOH | 2 mL | CO | CH4O
reactant | formic acid | 0.30 mL | C(=O)O | CH2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd—C | 30 mg | [Pd] | Pd
product | 6-(1H-Benzo[d]imidazol-2-yl)naphthalen-2-ol | 60 mg, 94% | N1C(=NC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)O | C17H12N2O
